US07087579B2
To a suspension of 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-methylthiophenyl)methyl]-1H-pyrazole (0.020 g) and cesium carbonate (0.11 g) in N,N-dimethylformamide (0.5 mL) was added 3-bromopropanol (0.022 mL), and the mixture was stirred at 40° C. overnight. To the reaction mixture was added water, and the mixture was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol), and successively by column chromatography on silica gel (eluent: dichloromethane/methanol=5/1) to give 3-(β-D-glucopyranosyloxy)-1-(3-hydroxypropyl)-5-methyl-4-[(4methylthiophenyl)methyl]-1H-pyrazole (0.011 g).

reactant | 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-methylthiophenyl)methyl]-1H-pyrazole | 0.020 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)SC)C | C18H24N2O6S
reactant | cesium carbonate | 0.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromopropanol | 0.022 mL | BrCCCO | C3H7BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 3-(β-D-glucopyranosyloxy)-1-(3-hydroxypropyl)-5-methyl-4-[(4methylthiophenyl)methyl]-1H-pyrazole | 0.011 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NN(C(=C1CC1=CC=C(C=C1)SC)C)CCCO | C21H30N2O7S
